US07470699B2
Step 1: Preparation of 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-fluoro-phenol
To a solution of 2-(4-benzyloxy-3-fluoro-phenyl)-ethanol (9.2 g, 37.4 mmol) in CH2Cl2 (150 mL) and TBDMS-Cl (5.6 g, 37.4 mmol), was added Et3N (5.2 mmol, 37.4 mmol) portionwise at 0° C. The reaction mixture was warmed to room temperature and stirred for 2 hours at the same temperature. The reaction was washed with H2O (150 mL). The CH2Cl2 was dried over MgSO4 and concentrated under vacuum. To a solution of the residue in MeOH (100 mL), was Pd/C (150 mg) added. The reaction was stirred under H2 (1 atm) for 5 hours. The solid material was filtrated off and the filtrate was concentrated under vacuum to afford the desired compound (8.9 g, 88.3%) as a grayish solid. The crude compound was used for the next step without further purification. 1H NMR (400 Mz, DMSO-d6) δ 9.53 (s, 1H), 6.99˜6.96 (m, 1H), 6.83˜6.81 (m, 2H), 3.70 (t, 2H), 2.63 (t, 2H), 0.83 (s, 9H), 0.01 (s, 6H).

reactant | 2-(4-benzyloxy-3-fluoro-phenyl)-ethanol | 37.4 mmol, 9.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCO)F | C15H15FO2
reactant | TBDMS-Cl | 37.4 mmol, 5.6 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Et3N | 5.2 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-fluoro-phenol | 8.9 g, 88.3% | C(C)(C)(C)[Si](OCCC1=CC(=C(C=C1)O)F)(C)C | C14H23FO2Si
